US06492383B1
[6-(4-Fluoro-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine
The title compound was prepared from p-fluorobenzeneboronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. 1H NMR (400 MHz, DMSO) d 11.4 (s, 1H), 8.82 (s, 1H), 7.79 (m, 4H), 7.41 (m, 5H), 7.21 (d, 1H). 6.50 (s, 1H), M.P. 193-205° C.; LC-MS: 361 (MH+); HPLC RT: 4.88 minutes.

reactant | p-fluorobenzeneboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | [6-(4-Fluoro-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine | FC1=CC=C(C=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C20H13FN4S
